US07179943B2
(1S)-N-[3-chloro-4-fluorophenyl]-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1] octane-3-carboxamide
To an ice-cooled solution of (1S)1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione (0.18 g, 1.0 mmole), triethylamine (0.10 g, 1.0 mmole) and 4-(dimethylamino)pyridine (0.12 g, 1.0 mmole) in dry dichloromethane (25 mL) was added a solution of 3-chloro-4-fluorophenyl isocyanate (0.17 g, 1.0 mmole) in dry dichloromethane (5 mL). The resulting reaction mixture was allowed to stir overnight under a nitrogen atmosphere, during which time it came up to room temperature. It was then stirred at 30° C. for seven hours. The resulting mixture was treated with 2N aqueous HCl (30 mL) and the layers were separated. The aqueous layer was extracted with two additional portions of dichloromethane (50 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated on a rotary evaporator. The desired product was isolated by chromatography on silica gel (10% ethyl acetate/hexane) and recrystallized from 95% ethanol to yield the title compound as a light orange solid (0.16 g, 47% yield), mp=87–89° C.; MS (−) ESI m/z=352 (M−H)−; [α]D25=−23.1° (c=1, EtOH).

reactant | (1S)1,8,8-trimethylbicyclo[3.2.1]octane-2,4-dione | 1.0 mmole, 0.18 g | C[C@]12C(CC(C(CC1)C2(C)C)=O)=O | C11H16O2
reactant | triethylamine | 1.0 mmole, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4-fluorophenyl isocyanate | 1.0 mmole, 0.17 g | ClC=1C=C(C=CC1F)N=C=O | C7H3ClFNO
reactant | HCl | 2N, 30 mL | Cl | ClH
catalyst | 4-(dimethylamino)pyridine | 1.0 mmole, 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (1S)-N-[3-chloro-4-fluorophenyl]-1,8,8-trimethyl-2,4-dioxobicyclo[3.2.1] octane-3-carboxamide | ClC=1C=C(C=CC1F)NC(=O)C1C([C@]2(CCC(C1=O)C2(C)C)C)=O | C18H19ClFNO3
